US07214690B2
To a suspension of 6-bromo-5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one (9.42 g, 30.6 mmol) and CsF (13.9 g, 91.7 mmol) in 102 mL DMF was added benzyl bromide (6.54 g, 38.2 mmol) dropwise. After 24 h, the mixture was poured into 0.1 M NaHSO4 (500 mL) and extracted with EtOAc (1:1). The aqueous layer was reextracted with EtOAc (500 mL) and the combined organic layers were washed sequentially with water (500 mL), brine (300 mL), dried over MgSO4, filtered and concentrated to a slurry. The mixture was cooled to 0° C., filtered and the resultant solids washed with cold EtOAc to afford 7.26 g (60%) of 5-benzyloxy-6-bromo-4-(trifluoromethyl)-1H-quinolin-2-one, a tan solid. Rf 0.26 (7:3 hexanes:acetone); 1H NMR (400 MHz, acetone-d6) δ 11.3 (broad s, 1H), 7.91 (d, 1H, J=9.0, 1H), 7.61 (d, 2H, J=7.3), 7.43 (t, 2H, J=7.2), 7.25–7.35 (m, 1H), 7.32 (d, 1H, J=9.0), 7.06 (s, 1H), 5.10 (s, 1H).

reactant | 6-bromo-5-hydroxy-4-(trifluoromethyl)-1H-quinolin-2-one | 30.6 mmol, 9.42 g | BrC=1C(=C2C(=CC(NC2=CC1)=O)C(F)(F)F)O | C10H5BrF3NO2
reactant | CsF | 91.7 mmol, 13.9 g | [F-].[Cs+]
reactant | benzyl bromide | 38.2 mmol, 6.54 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHSO4 | 0.1 M, 500 mL | OS(=O)(=O)[O-].[Na+]
solvent | DMF | 102 mL | CN(C)C=O | C3H7NO
product | 5-benzyloxy-6-bromo-4-(trifluoromethyl)-1H-quinolin-2-one | 7.26 g, 60% | C(C1=CC=CC=C1)OC1=C2C(=CC(NC2=CC=C1Br)=O)C(F)(F)F | C17H11BrF3NO2
